US07435731B2
(R)-1-[6-(2,4-Difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol (258 mg) was dissolved in 8 mL MeOH, and 0.6 nL of 6M HCl was added. The reaction mixture was heated to 80° C. for 3.5 hours, then cooled. The reaction mixture was quenched by addition to water, and was partitioned between water and ethyl acetate. The organic layer was separated, dried over MgSO4, filtered, and evaporated under reduced pressure. The residue was purified by flash chromatography (10% MeOH in methylene chloride) to give 116 mg of (R)-1-[6-(2,4-Difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol. Mass Spec. M+H=322.

reactant | (R)-1-[6-(2,4-Difluoro-phenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 258 mg | FC1=C(OC2=NC(=C3C(=N2)N(N=C3)COCC[Si](C)(C)C)NC[C@@H](C)O)C=CC(=C1)F | C20H27F2N5O3Si
reactant | HCl | 6M, 0.6 nL | Cl | ClH
solvent | MeOH | 8 mL | CO | CH4O
product | (R)-1-[6-(2,4-Difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 116 mg | FC1=C(OC2=NC(=C3C(=N2)NN=C3)NC[C@@H](C)O)C=CC(=C1)F | C14H13F2N5O2
